US05281571
A mixture of 1.62 g (4.0 mmole) 3-[5-(bromomethyl)-4-chloro-2-fluorophenyl]-4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazole, 0.44 mL ethyl mercaptoacetate and 0.55 g K2CO3 was slurried in 25 mL of acetone. The reaction mixture was allowed to stir at room temperature overnight. After dilution with 100 mL of cold water, the mixture was extracted with ethyl acetate, the organic extracts washed with water, dried with MgSO4 and concentrated in vacuo. The residue was purified by chromatography to afford 1.7 g (96%) of (((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methyl)thio)acetic acid, ethyl ester as a white solid; mp 63° C.

reactant | 3-[5-(bromomethyl)-4-chloro-2-fluorophenyl]-4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 4.0 mmole, 1.62 g | BrCC=1C(=CC(=C(C1)C1=NN(C(=C1Cl)C(F)(F)F)C)F)Cl | C12H7BrCl2F4N2
reactant | ethyl mercaptoacetate | 0.44 mL | SCC(=O)OCC | C4H8O2S
reactant | K2CO3 | 0.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | (((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methyl)thio)acetic acid, ethyl ester | 1.7 g, 96% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)CSCC(=O)OCC | C16H14Cl2F4N2O2S
